* C:\Users\beade\Documents\ITBA\ELECTROTECNIA\tp_final_electrotecnia\Altium\TP_Integrador\Simulacion_Analisis_de_Montecarlo.asc
XTL082 N003 N002 Vcc+ Vcc- Vout TL082
V1 Vin 0 PULSE(0 10 10m 1n 1n 200m 400m 10)
V2 Vcc+ 0 {VCC}
R3 Vout N002 {mc({R3},tol_R)}
R2 Vout N001 {mc({R2},tol_R)}
R1 0 N003 {mc({R1},tol_R)}
R4 0 N002 {mc({R4},tol_R)}
C1 N001 Vin {mc({C1},tol_C)}
C2 N003 N001 {mc({C2},tol_C)}
V3 0 Vcc- {VCC}
* Voltage Source
* Circuit
* Parameters
* Simulation Setup
.param R1 = 8.1k
.param R2 = 8.1k
.param R3 = 10k
.param R4 = 8.1k
.param C1 = 100n
.param C2 = 100n
.param tol_R = 0.05
.param tol_C = 0.1
.param VCC = 15V
* OpAmp VCC
.step param run 1 50 1
.tran 0 400m 0 1u
.lib C:\Users\beade\Documents\ITBA\ELECTROTECNIA\tp_final_electrotecnia\Altium\op_amp_301file\TL082.301
.backanno
.end
