* C:\Users\beade\Documents\ITBA\ELECTROTECNIA\tp_final_electrotecnia\LTSpice\Montecarlo_R3\Simulacion_SPICE_Montecarlo_R3.asc
R1 VL+ Vcc {R1}
C1 VL+ N001 {mc({C},tol_C)}
R2 N001 0 {R2}
R3 VL- 0 {mc({R3},tol_R)}
L1 VL+ VL- {mc({L},tol_L)}
V1 Vcc 0 PULSE(0 10 10m 1n 1n 200m 400m 10)
* Circuit
* Source / Switch
* Parameters
.param R1 = 50
.param R2 = 7
.param R3 = 6
.param C = 300u
.param L = 450m
* Simulation setup
.param tol_R = 0.05
.param tol_C = 0.1
.param tol_L = 0
.step param run 1 50 1
.tran 0 400m 0 1u
.backanno
.end
