* C:\Users\facud\OneDrive\Escritorio\ITBA\Primer Cuatri 2023\Electrotecnia I\TP Final\Simulacion SPICE - Valores Fijos.asc
R1 VL+ Vcc {R1}
C1 VL+ N001 {C}
R2 N001 0 {R2}
R3 VL- 0 {R3}
L1 VL+ VL- {L}
V1 Vcc 0 PULSE(0 10 10m 1n 1n 200m 400m 10)
.tran 0 400m 0 1u
* Circuit
* Source / Switch
* Parameters
.param R1 = 50
.param R2 = 7
.param R3 = 6
.param C = 300u
.param L = 450m
* Simulation setup
.backanno
.end
