* C:\Users\facud\OneDrive\Escritorio\ITBA\Primer Cuatri 2023\Electrotecnia I\TP Final\LTSpice\tp_final_electrotecnia\LTSpice\Simulación_con_resistencias_0\Simulacion_SPICE_Resistencias_0.asc
R1 VL+ Vcc {R1}
C1 VL+ N001 {C}
R2 N001 0 {R2}
R3 VL- 0 {R3}
L1 VL+ VL- {L}
V1 Vcc 0 PULSE(0 10 10m 1n 1n 200m 400m 10)
.tran 0 400m 0 1u
* Circuit
* Source / Switch
* Parameters
.param R1=0.0001
.param R2=0.0001
.param R3=0.0001
.param C = 300u
.param L = 450m
* Simulation setup
.backanno
.end
